US05187055
A mixture of 83.5 g of o-nitrobenzoic acid, 1 ml of dimethylformamide and 100 ml of thionyl chloride was heated under reflux for 3 hours. The resulting reaction mixture was concentrated under reduced pressure with an aspirator to yield yellow, oily o-nitrobenzoyl chloride. The thus obtained o-nitrobenzoyl chloride was added dropwise to 300 ml of acetonitrile, in which 88.4 g of n-dodecanol and 41 ml of pyridine were dissolved, at room temperature with stirring over a period of 30 minutes. After one hour's stirring, the resulting solution was mixed with 600 ml of ethyl acetate, and washed three times with 500 ml of water being used for each wash, to extract the product with the ethyl acetate. The ethyl acetate solution was dried over sodium sulfate, and then concentrated to give 143 g of light yellow oily dodecyl o-nitrobenzoate.

reactant | o-nitrobenzoic acid | 83.5 g | [N+](=O)([O-])C1=C(C(=O)O)C=CC=C1 | C7H5NO4
reactant | thionyl chloride | 100 ml | S(=O)(Cl)Cl | Cl2OS
reactant | o-nitrobenzoyl chloride | [N+](=O)([O-])C1=C(C(=O)Cl)C=CC=C1 | C7H4ClNO3
reactant | n-dodecanol | 88.4 g | C(CCCCCCCCCCC)O | C12H26O
solvent | ethyl acetate | 600 ml | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 41 ml | N1=CC=CC=C1 | C5H5N
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | dodecyl o-nitrobenzoate | 143 g | [N+](=O)([O-])C1=C(C(=O)OCCCCCCCCCCCC)C=CC=C1 | C19H29NO4
